US06794109B2
Preparation of tert-Butyl 1,1,1,3,3,3-Hexafluoro-2-(4-vinylphenyl)-2-propyl Carbonate
The title compound was prepared by a modification of the procedure of Przybilla, described in German Patent No. DE42072261A1 (Sep. 9, 1993), herein incorporated by reference. 9.35 mL of (t-BOC)2O (40.70 mmol) in THF (10 mL) was added to a mixture of 1,1,1,3,3,3-Hexafluoro-2-(4-vinylphenyl)-2-propanol (10.00 g, 37.01 mmol) and K2CO3 (10.00 g, 72.35 mmol) in THF (90 mL) was added. The reaction mixture was allowed to stir at room temperature for 4 days, concentrated, then partitioned between hexane/H2O. The aqueous solution was extracted with hexane, and the combined extracts were washed with brine, dried (Na2SO4), and concentrated to provide 15.17 g of a pale yellow oil. This material was purified by column chromatography on silica gel using 50:1 hexane/ethyl acetate to provide 5.16 g (38%) of a white solid, plus 4.68 g of a 90:10 mixture of protected/unprotected material; 1H NMR (CDCl3) δ 7.49 (d, 2ArH), 7.42 (d, 2ArH), 6.74 (dd, CH═), 5.83 (dd, ═CHH), 5.36 (dd, ═CHH), 1.49 (s, t-Bu).

reactant | (t-BOC)2O | 40.70 mmol, 9.35 mL | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | 1,1,1,3,3,3-Hexafluoro-2-(4-vinylphenyl)-2-propanol | 37.01 mmol, 10.00 g | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)C=C)(F)F | C11H8F6O
reactant | K2CO3 | 72.35 mmol, 10.00 g | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 90 mL | C1CCOC1 | C4H8O
product | tert-Butyl 1,1,1,3,3,3-Hexafluoro-2-(4-vinylphenyl)-2-propyl Carbonate | C(OC(C)(C)C)(OC(C(F)(F)F)(C(F)(F)F)C1=CC=C(C=C1)C=C)=O | C16H16F6O3
